US04424351
2.46 g (0.01 moles) of 3-(2-pyridyl)-1,2-dihydropyrido[3,4-e]-as-triazine hydrochloride are reacted with salicyloyl chloride as described in Example 2 to obtain 1-salicyloyl-3-(2-pyridyl)-1,2-dihydropyrido[3,4-e]-as-triazine hydrochloride with a yield of 78%; m.p.: 219°-220° C.

reactant | 3-(2-pyridyl)-1,2-dihydropyrido[3,4-e]-as-triazine hydrochloride | 0.01 moles, 2.46 g | Cl.N1=C(C=CC=C1)C=1NNC2=C(N1)C=NC=C2
reactant | salicyloyl chloride | C(C=1C(O)=CC=CC1)(=O)Cl | C7H5ClO2
product | 1-salicyloyl-3-(2-pyridyl)-1,2-dihydropyrido[3,4-e]-as-triazine hydrochloride | yield of 78% | Cl.C(C=1C(O)=CC=CC1)(=O)N1NC(=NC2=C1C=CN=C2)C2=NC=CC=C2 | InChI=1S/C18H13N5O2.ClH/c24-16-7-2-1-5-12(16)18(25)23-15-8-10-19-11-14(15)21-17(22-23)13-6-3-4-9-20-13;/h1-11,24H,(H,21,22);1H
